US06462075B1
To a 0.67 M solution of the benzaldehyde (20.0 mmol) and cyclohexanone (10.0 mmol) in ethanol (15 ml) is added 10 ml 40% KOH at 10° C. After stirring for 12-24 hr at room temperature, the solution is diluted and filtered. The precipitate is recrystallized from ethanol to afford 2,6-dibenzalcyclohexanone and its derivatives.

reactant | benzaldehyde | 20.0 mmol | C(C1=CC=CC=C1)=O | C7H6O
reactant | cyclohexanone | 10.0 mmol | C1(CCCCC1)=O | C6H10O
reactant | KOH | 10 ml | [OH-].[K+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2,6-dibenzalcyclohexanone | C(C1=CC=CC=C1)=C1C(C(CCC1)=CC1=CC=CC=C1)=O | C20H18O
